### PR TITLE
Add multiplication support

### PR DESCRIPTION
**Pull request by lzy0505**

### CODE REVIEW

File: theories/finz_base.v [hunk 1]
```diff
@@ -72,6 +72,29 @@ Definition incr_default (f : finz) (off : Z) : finz :=
   | None => largest f
   end.
 
+Program Definition mult(f : finz) (off : Z) : option finz :=
```
Comment (Armael) [inline theories/finz_base.v:75]: missing space after `mult`

File: theories/solve_finz.v [hunk 2]
```diff
@@ -73,7 +73,7 @@ Ltac finz_incr_default_as_spec f x :=
   clearbody fx.
 
 Lemma finz_min_spec fb (f1 f2 : finz fb) :
-  ∃ f, finz.min f1 f2 = f ∧ (f : Z) = Z.min (f1 : Z) (f2 : Z).
+  ∃ f, finz.min f1 f2 = f ∧ ( f : Z) = Z.min (f1 : Z) (f2 : Z).
 Proof.
```
Comment (Armael) [inline theories/solve_finz.v:77]: spurious change

File: theories/solve_finz.v [hunk 3]
```diff
@@ -98,6 +98,35 @@ Ltac finz_max_as_spec f1 f2 :=
   fast_set fx (finz.max f1 f2);
   clearbody fx; subst fx.
 
+Lemma finz_mult_Some_spec fb (f f' : finz fb) (z : Z) :
+  (f * z)%f = Some f' →
+  (f * z < fb ∧ (0 < f ∧ 0 <= z ∨ 0= f) ∧ (f':Z) = f * z)%Z.
```
Comment (Armael) [inline theories/solve_finz.v:103]: missing space after 0

File: theories/solve_finz.v [hunk 4]
```diff
@@ -98,6 +98,35 @@ Ltac finz_max_as_spec f1 f2 :=
...
+Proof.
+  unfold finz.mult.
+  destruct (Z_lt_dec (f * z)%Z fb),(Z_le_dec 0%Z (f * z)%Z); inversion 1.
+ repeat split;try lia...
```
Comment (Armael) [inline theories/solve_finz.v:107]: missing indentation space. Do the `...` do anything here?

File: theories/solve_finz.v [hunk 5]
```diff
@@ -98,6 +98,35 @@ Ltac finz_max_as_spec f1 f2 :=
...
+  destruct (decide (0< f)%Z).
```
Comment (Armael) [inline theories/solve_finz.v:108]: Missing space after 0

File: theories/solve_finz.v [hunk 6]
```diff
@@ -225,10 +254,30 @@ Ltac zify_finz_op_nonbranching_step :=
...
   | |- finz.of_z _ = Some _ =>
     apply finz_of_z_Some_spec
+
+  | H : is_Some (finz.mult _ _) |- _ =>
+    destruct H
+  | H : finz.mult _ _ = Some _ |- _ =>
+    apply finz_mult_Some_spec in H;
+    destruct H as (? & ? & ?)
+  | |- is_Some (finz.mult _ _) =>
+    apply finz_mult_is_Some_spec
```
Comment (Armael) [inline theories/solve_finz.v:279]: it looks like this part got duplicated?

File: theories/solve_finz.v [hunk 7]
```diff
@@ -378,3 +427,12 @@ Goal forall (fb : Z) (f : finz fb) (n m : Z),
   (0 <= m)%Z →
   ((f ^+ n) ^+ m)%f = (f ^+ (n + m)%Z)%f.
 Proof. zify_finz;[]. (* only one goal! *) lia. Qed.
+
+Goal forall fb (f1 f2 : finz fb),
+  (f1 < f2)%Z ->
+  (f2 * 10 = fb)%Z ->
+  is_Some(f1 * 10)%f.
```
Comment (Armael) [inline theories/solve_finz.v:434]: missing space after `is_Some`

**Review by Armael — COMMENTED** [review]
Thanks, that looks good! See the small tweaks cf the comments, and then we should be good to go.

**Comment by Armael** [comment]
Thanks!
